US08609644B2
6α-Carbamoylandrostane-3,17-dione (II-ar)
To a stirred suspension of 6α-carboxyandrostane-3,17-dione (II-aq, Prepn. 17, 600 mg) in dry toluene (12 mL), SOCl2 (623 μL) was added. After stirring 5.5 h at 85° C. the solution was cooled at 0° C. and 2M NH3 solution in MeOH (2.97 mL) was added. After stirring overnight at room temperature, the mixture was evaporated to dryness. The residue was treated with CH2Cl2 and H2O and extracted with CH2Cl2. The combined organic extracts were washed with 10% K2CO3 solution, brine, dried over Na2SO4 and evaporated to dryness. The residue was purified by flash chromatography (SiO2, n-hexane/acetone 50/50) to give the title compound II-ar (90 mg, 15%). 1H-NMR (300 MHz, DMSO-d6, ppm from TMS): δ 7.27 (bs, 1H), 6.78 (bs, 1H), 2.50-0.72 (m, 21H), 1.00 (s, 3H), 0.80 (s, 3H).

reactant | 6α-carboxyandrostane-3,17-dione | 600 mg | C(=O)(O)[C@H]1C[C@H]2[C@@H]3CCC([C@@]3(C)CC[C@@H]2[C@]2(CCC(CC12)=O)C)=O | C20H28O4
reactant | NH3 | 2M | N | H3N
solvent | toluene | 12 mL | C1(=CC=CC=C1)C | C7H8
solvent | SOCl2 | 623 μL | O=S(Cl)Cl | Cl2OS
solvent | MeOH | 2.97 mL | CO | CH4O
product | 6α-Carbamoylandrostane-3,17-dione | C(N)(=O)[C@H]1C[C@H]2[C@@H]3CCC([C@@]3(C)CC[C@@H]2[C@]2(CCC(CC12)=O)C)=O | C20H29NO3
